US06946558B2
2-bromo-3-pyridinol (230 mg) and potassium carbonate (216 mg) was dissolved in methylethylketone (10 ml) and reacted for 30 minutes. Then, (S)-3-bromo-2-methyl-1-propanol (0.21 ml) was added to the solution and refluxed for 3 hours at 100° C. Potassium carbonate was filtered out and separated by flash chromatography under a silica gel phase (ethyl acetate:normal hexane=1:1). As a result, (S)-3-(2-bromopyridine-3-yloxy)-2-methyl-1-propanol (260 mg, yield: 80%) was obtained.

reactant | 2-bromo-3-pyridinol | 230 mg | BrC1=NC=CC=C1O | C5H4BrNO
reactant | potassium carbonate | 216 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-3-bromo-2-methyl-1-propanol | 0.21 ml | BrC[C@H](CO)C | C4H9BrO
solvent | methylethylketone | 10 ml | CC(=O)CC | C4H8O
product | (S)-3-(2-bromopyridine-3-yloxy)-2-methyl-1-propanol | 260 mg, yield: 80% | BrC1=NC=CC=C1OC[C@H](CO)C | C9H12BrNO2
